US06107274
The above-described cyclized products 4-{[2-(4-cyano-phenyl)-2-(3-cyclohexylmethyl-1,4-dioxo-1,3,4,6,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-2-yl)-acetylamino]-methyl}-benzoic acid tert-butyl ester (diastereomers A and B) were treated with a 1:1 CH2Cl2 /CF3CO2H solution according to General Method 3 to afford 27 mg (100%) of 4-{[2-(4-cyano-phenyl)-2-(3-cyclohexylmethyl-1,4-dioxo-1,3,4,6,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-2-yl)-acetylamino]-methyl}-benzoic acid (diastereomer A) and 35 mg (100%) of 4-{[2-(4-cyano-phenyl)-2-(3-cyclohexylmethyl-1,4-dioxo-1,3,4,6,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-2-yl)-acetylamino]-methyl}-benzoic acid (diastereomer B).

reactant | 4-{[2-(4-cyano-phenyl)-2-(3-cyclohexylmethyl-1,4-dioxo-1,3,4,6,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-2-yl)-acetylamino]-methyl}-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)CNC(C(N1C(C2N(CC=3C=CC=CC3C2)C(C1CC1CCCCC1)=O)=O)C1=CC=C(C=C1)C#N)=O)=O | C40H44N4O5
reactant | CH2Cl2 CF3CO2H | C(Cl)Cl.C(F)(F)(F)C(=O)O
product | 4-{[2-(4-cyano-phenyl)-2-(3-cyclohexylmethyl-1,4-dioxo-1,3,4,6,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-2-yl)-acetylamino]-methyl}-benzoic acid | 35 mg, 100% | C(#N)C1=CC=C(C=C1)C(C(=O)NCC1=CC=C(C(=O)O)C=C1)N1C(C2N(CC=3C=CC=CC3C2)C(C1CC1CCCCC1)=O)=O | C36H36N4O5
